US04001426
Substitution of 3,5-dichlorobenzoyl chloride in the procedure of Example 7 for 3,5-dimethylbenzoyl chloride followed by demethylation of the 3-(3',5'-dichlorobenzoyl)-2-p-methoxyphenylbenzofuran as described above gave 3-(3',5'-dichlorobenzoyl)-2-p-hydroxyphenylbenzofuran.

reactant | 3,5-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | 3-(3',5'-dichlorobenzoyl)-2-p-methoxyphenylbenzofuran | ClC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OC)C=C(C1)Cl | C22H14Cl2O3
product | 3-(3',5'-dichlorobenzoyl)-2-p-hydroxyphenylbenzofuran | ClC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)O)C=C(C1)Cl | C21H12Cl2O3
